US07923450B2
[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(8-pyrrolidin-1-yl-5,6,7,8-tetrahydro-quinazolin-2-yl)-amine
To a suspension of methanesulfonic acid 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazolin-8-yl ester (61 mg, 0.14 mmol) in tetrahydrofurane (1.4 mL) was added under nitrogen at 0° C. pyrrolidine (20 mg, 0.28 mmol) and triethyl amine (29 mg, 0.28 mmol). The reaction was stirred at room temperature over night, heated to reflux for 2 hours. A few drops of dimethylformamide were added and the reaction was stirred at room temperature for 2 hours. The reaction was concentrated under reduced pressure, dissolved in water and extracted twice with ethyl acetate. The combined organic layers were washed with dried over sodium sulfate, filtered and the solvent was removed under reduced pressure. The residue was purified on silica gel using dichloromethane/methanol/concentrated aqueous ammonia (19:1:0.2 v/v/v) as eluent to yield the title compound (24 mg, 42%) as a yellow solid. MS ISP (m/e): 234.3 (100), 334 (24), 405.3 (69) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=9.61 (s, 1H), 8.29 (s, 1H), 7.95 (s, 1H), 7.64 (s, 1H), 7.38 (d, 1H), 7.20 (d, 1H), 7.02 (s, 1H), 3.80 (s, 3H), 2.55-2.80 (m, 4H), 2.14 (s, 3H), 2.04 (m, 2H), 1.60-1.80 (m, 6H).

reactant | methanesulfonic acid 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazolin-8-yl ester | 0.14 mmol, 61 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=2C(CCCC2C=N1)OS(=O)(=O)C | C20H23N5O4S
reactant | pyrrolidine | 0.28 mmol, 20 mg | N1CCCC1 | C4H9N
reactant | triethyl amine | 0.28 mmol, 29 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofurane | 1.4 mL | O1CCCC1 | C4H8O
catalyst | dimethylformamide | A few drops | CN(C=O)C | C3H7NO
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(8-pyrrolidin-1-yl-5,6,7,8-tetrahydro-quinazolin-2-yl)-amine | 24 mg, 42% | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=2C(CCCC2C=N1)N1CCCC1 | C23H28N6O
